US06313107B1
(4-Bromo-3-isopropyl-phenoxy)-triisopropyl-silane (Intermediate 96)
To a solution of 4-bromo-3-isopropylphenol (880.0 mg, 4.09 mmols) and imidazole (417.0 mg, 6.13 mmols) in 10 mL DMF was added chlorotriisopropylsilane (946.0 mg, 4.90 mmols). After stirring overnight at room temperature the solution was diluted with H2O and extracted with EtOAc. The combined organic layers were washed with H2O and saturated aqueous NaCl before being dried (MgSO4) and concentrated under reduced pressure. The title compound, 1.30 g (92%), was isolated by column chromatography (1-2% EtOAc-hexanes) as a colorless oil.

reactant | 4-bromo-3-isopropylphenol | 4.09 mmols, 880.0 mg | BrC1=C(C=C(C=C1)O)C(C)C | C9H11BrO
reactant | imidazole | 6.13 mmols, 417.0 mg | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 4.90 mmols, 946.0 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | (4-Bromo-3-isopropyl-phenoxy)-triisopropyl-silane | BrC1=C(C=C(O[Si](C(C)C)(C(C)C)C(C)C)C=C1)C(C)C | C18H31BrOSi
